* Actual SKY130 transistor frontend; ideal R/C passives, schematic only.
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/frontend/frontend_core.spice
.temp 27
VDD VDD 0 1.8
VCM VCM 0 0.9

VIP SP 0 dc 0.9 ac 0.5 PULSE(0.855 0.9450000000000001 5u 10n 10n 10u 20u)
VIN SN 0 dc 0.9 ac -0.5 PULSE(0.9450000000000001 0.855 5u 10n 10n 10u 20u)
RSP SP IP 350
RSN SN IN 350
XPGA IP IN OP ON VDD 0 VCM sky130_v2_pga RF=40000
CLP OP 0 40.0p
CLN ON 0 40.0p
.control
set noaskquit
set wr_singlescale
set wr_vecnames
op
let power=-v(vdd)*i(vdd)
wrdata tt_1.80_27_g4_c40_op.dat v(op) v(on) v(xpga.xamp.bn) v(xpga.xamp.bp) v(xpga.xamp.xp) v(xpga.xamp.cmctl) power
ac dec 80 1 1g
let ad=v(op)-v(on)
let av=db(ad)
let ph=180/pi*cph(ad)
wrdata tt_1.80_27_g4_c40_ac.dat av ph
tran 5n 35u
let od=v(op)-v(on)
let oc=(v(op)+v(on))/2
wrdata tt_1.80_27_g4_c40_tran.dat od oc v(sp) v(sn) v(xpga.xamp.bn)
quit
.endc
.end
